US05216159
A mixture of 4-(3-Hydroxypropyl)-4-hydroxy-cyclohexanone ethylene ketal (1.4 g) and diisopropylethylamine (3.37 mL) in methylene chloride (100 mL) at -78° C. was treated with triflic anhydride (1.64 mL). After 30 min the reaction mixture was washed with water, the solvent was dried over magnesium sulfate and removed in vacuo. The residue was dissolved in 30 mL of tetrahydrofuran and 15 mL of 3% HCl. After 5 h at room temperature the reaction mixture was diluted with water and the product was extracted with ether. After drying over magnesium sulfate the solvent was removed in vacuo to afford 1-Oxaspiro[4.5]decan-8-one as an oil.

reactant | 4-(3-Hydroxypropyl)-4-hydroxy-cyclohexanone ethylene ketal | 1.4 g | C1COC2(CCC(CC2)(O)CCCO)O1 | C11H20O4
reactant | diisopropylethylamine | 3.37 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triflic anhydride | 1.64 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-Oxaspiro[4.5]decan-8-one | O1CCCC12CCC(CC2)=O | C9H14O2
